US09085576B2
A round bottom flask was charged with 3-nitro-5-(trifluoromethyl)picolinonitrile (910 mg, 4.19 mmol) and sulfuric acid (4192 μl, 4.19 mmol), and the mixture was stirred at 60° C. for 16 h. Upon cooling to RT the crude mixture was poured onto ice, and the resulting solids were filtered, washed with water and dried. 3-nitro-5-(trifluoromethyl)picolinamide (850 mg, 3.62 mmol, 86% yield) was isolated as a light yellow solid. LC/MS (ESI+) m/z=236.1 (M+H).

reactant | 3-nitro-5-(trifluoromethyl)picolinonitrile | 4.19 mmol, 910 mg | [N+](=O)([O-])C=1C(=NC=C(C1)C(F)(F)F)C#N | C7H2F3N3O2
reactant | sulfuric acid | 4.19 mmol, 4192 μl | S(O)(O)(=O)=O | H2O4S
product | 3-nitro-5-(trifluoromethyl)picolinamide | 3.62 mmol, 850 mg, 86% yield | [N+](=O)([O-])C=1C(=NC=C(C1)C(F)(F)F)C(=O)N | C7H4F3N3O3
